US05527827
7-Bromo-4-trifluoromethylcoumarin
To a solution of 48% HBr (4.5 g, 26.7 mmol) (3 mL) containing 7-amino-4-trifluoromethylcoumarin (Aldrich) (2.0 g, 8.8 mmol) at -10° C. was added NaNO2 (670 mg in 1 mL of H2O) then Cu powder 35 mg was added. The reaction mixture was stirred at r.t. for 30 min., then heated to 100° C. for 30 min. The reaction mixture was cooled to 0° C. and H2O (25 mL) was added. The mixture was extracted with EtOAc (400 mL) and the combined organic phase was washed with brine (200 mL) dried over MgSO4 and evaporated. The crude solid was purified by chromatography on silica gel using hexane:EtOAc 8:2 as eluent, to give 1.5 g (58%) of the title compound as a white solid.

reactant | HBr | 26.7 mmol, 3 mL, 4.5 g | Br | BrH
reactant | 7-amino-4-trifluoromethylcoumarin | 8.8 mmol, 2.0 g | NC1=CC=C2C(=CC(OC2=C1)=O)C(F)(F)F | C10H6F3NO2
reactant | NaNO2 | 1 mL, 670 mg | N(=O)[O-].[Na+]
solvent | H2O | 25 mL | O | H2O
product | 7-Bromo-4-trifluoromethylcoumarin | 1.5 g, 58% | BrC1=CC=C2C(=CC(OC2=C1)=O)C(F)(F)F | C10H4BrF3O2
